US06562828B1
7-[1-(3-Formylpyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid tert-Butyl Ester
To a solution of 7-(piperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid tert-butyl ester (442 mg) in ethanol (3 ml) were added triethylamine (0.3 ml) and 4-chloro-3-formylpyridine (Journal of Heterocyclic Chemistry, vol. 25, p. 81 (1988)) (150 mg), and the mixture was stirred under reflux for 27 hours. After completion of the reaction, tetrahydrofuran and diethyl ether were added and insoluble material was removed. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (chloroform:methanol=100:1) and dried under reduced pressure to give the title compound (430 mg).

reactant | 7-(piperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid tert-butyl ester | 442 mg | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)OCC1CCNCC1 | C20H30N2O3
reactant | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-3-formylpyridine | 150 mg | ClC1=C(C=NC=C1)C=O | C6H4ClNO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 7-[1-(3-Formylpyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid tert-Butyl Ester | 430 mg | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)OCC1CCN(CC1)C1=C(C=NC=C1)C=O | C26H33N3O4
